US08802659B2
3-(4-tert-butyl-cyclohexyloxy)-1-methyl-naphthalene
A mixture of 4-methyl-naphthalen-2-ol (0.60 g, 3.8 mmol), methanesulfonic acid 4-tert-butyl-cyclohexyl ester (1.9 g, 7.6 mmol) and cesium carbonate (3.7 g, 11 mmol) in t-BuOH (10 mL) and 2-butanone (7 mL) was heated at 80° C. overnight. After cooled to room temperature, the mixture was treated with water and ether. The organic phase was dried over MgSO4, filtered and concentrated. The crude was treated with methanol to give solid product (0.55 g, yield: 48%). ESI-MS: 297.20 (M+H)+.

reactant | 4-methyl-naphthalen-2-ol | 3.8 mmol, 0.60 g | CC1=CC(=CC2=CC=CC=C12)O | C11H10O
reactant | methanesulfonic acid 4-tert-butyl-cyclohexyl ester | 7.6 mmol, 1.9 g | C(C)(C)(C)C1CCC(CC1)OS(=O)(=O)C | C11H22O3S
reactant | cesium carbonate | 11 mmol, 3.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | t-BuOH | 10 mL | CC(C)(C)O | C4H10O
solvent | 2-butanone | 7 mL | CC(CC)=O | C4H8O
solvent | ether | CCOCC | C4H10O
product | 3-(4-tert-butyl-cyclohexyloxy)-1-methyl-naphthalene | 0.55 g, yield: 48% | C(C)(C)(C)C1CCC(CC1)OC=1C=C(C2=CC=CC=C2C1)C | C21H28O
